US09144557B2
Preparation of methyl 4-((3-((3-methoxyphenethyl)amino)-3-oxopropyl)carbamoyl)benzoate:
To 3-amino-N-(3-methoxyphenethyl)propanamide (60 mg, 0.27 mmol) was added 4-(methoxycarbonyl)benzoic acid (49 mg, 0.27 mmol), hydroxybenzotriazole (3.7 mg, 0.027 mmol), triethylamine (42 μL, 0.30 mmol) and dimethyformamide (2.7 mL). Lastly, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (57 mg, 0.30 mmol) was added and the solution was allowed to stir overnight at room temperature in a capped vial. Upon completion of the reaction an aqueous workup is performed to give the crude product which was purified using flash chromatography.

reactant | 3-amino-N-(3-methoxyphenethyl)propanamide | 0.27 mmol, 60 mg | NCCC(=O)NCCC1=CC(=CC=C1)OC | C12H18N2O2
reactant | 4-(methoxycarbonyl)benzoic acid | 0.27 mmol, 49 mg | COC(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O4
reactant | hydroxybenzotriazole | 0.027 mmol, 3.7 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | triethylamine | 0.30 mmol, 42 μL | C(C)N(CC)CC | C6H15N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.30 mmol, 57 mg | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dimethyformamide | 2.7 mL | CN(C=O)C | C3H7NO
product | methyl 4-((3-((3-methoxyphenethyl)amino)-3-oxopropyl)carbamoyl)benzoate | COC=1C=C(CCNC(CCNC(=O)C2=CC=C(C(=O)OC)C=C2)=O)C=CC1 | C21H24N2O5
